US06548495B2
(2-Amino-5-chloro-4-trifluoromethyl-phenyl)-carbamic Acid tert-Butyl Ester
The title compound was prepared from (5-chloro-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example A11) (7.00 g, 20.5 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as a yellow solid (3.13 g, 49%).

reactant | (5-chloro-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 20.5 mmol, 7.00 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C(F)(F)F)[N+](=O)[O-])=O | C12H12ClF3N2O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | (2-Amino-5-chloro-4-trifluoromethyl-phenyl)-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C(F)(F)F)N)=O | C12H14ClF3N2O2
